US04810713
4-(3-Chloropropoxy)-3-methoxybenzoic acid methyl ester
A mixture of 100 g (0.549 mole) of methylvanillate, 172.8 g (1.1 mole) of 1-bromo-3-chloropropane and 228 g (1.65 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 20 hr. The mixture was cooled, filtered, and the filtrate concentrated to give a white solid as residue. The solid was triturated with petroleum ether, collected by filtration, and dried to yield 137.8 g (97%) of white powder which was recrystallized from isopropyl alcohol, m.p. 104°-105° C.

reactant | methylvanillate | 0.549 mole, 100 g | COC(C1=CC(OC)=C(O)C=C1)=O | C9H10O4
reactant | 1-bromo-3-chloropropane | 1.1 mole, 172.8 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 1.65 mole, 228 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 4-(3-Chloropropoxy)-3-methoxybenzoic acid methyl ester | 137.8 g, 97% | COC(C1=CC(=C(C=C1)OCCCCl)OC)=O | C12H15ClO4
